US07425641B2
d. 2-benzyloxy-5-bromo-phenylacetic acid
A solution of 12.4 g (0.053 mol) of 2-hydroxy-5-bromo-phenylacetic acid in 125 ml of dimethylformamide is combined with 14 g (0.125 mol) of potassium tert.butoxide. After 15 minutes at ambient temperature 18.5 g (0.108 mol) of benzylbromide are added. The reaction solution is stirred for 3 hours at ambient temperature, poured onto ice water and extracted with ethyl acetate. The combined organic extracts are dried and evaporated down. The residue is dissolved in 100 ml of ethanol and after the addition of 50 ml of 2N sodium hydroxide solution stirred for 3 hours at ambient temperature. The solvent is distilled off, the residue is adjusted to pH 4 with 2N hydrochloric acid. After extraction with ethyl acetate the organic phases are dried and evaporated down. The residue is chromatographed on silica gel and eluted with petroleum ether/ethyl acetate (8:2).

reactant | 2-hydroxy-5-bromo-phenylacetic acid | 0.053 mol, 12.4 g | OC1=C(C=C(C=C1)Br)CC(=O)O | C8H7BrO3
reactant | potassium tert.butoxide | 0.125 mol, 14 g | CC(C)([O-])C.[K+]
reactant | benzylbromide | 0.108 mol, 18.5 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 2-benzyloxy-5-bromo-phenylacetic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)CC(=O)O | C15H13BrO3
